US09193139B2
N,N′-(octane-1,8-diyl)bis(furan-2-carboxamide) (denoted F1)
The general procedure was carried out using 1,8-octanediamine (10.0 g, 69.3 mmol), triethylamine (14.2 g, 141 mmol), DMAP (0.17 g, 1.35 mmol) and furoyl chloride (19.0 g, 146 mmol). The resulting compound was purified by column chromatography (98:2 DCM:EtOAc), and the product obtained as a white solid (21.5 g/92%).

reactant | 1,8-octanediamine | 69.3 mmol, 10.0 g | C(CCCCCCCN)N | C8H20N2
reactant | triethylamine | 141 mmol, 14.2 g | C(C)N(CC)CC | C6H15N
reactant | furoyl chloride | 146 mmol, 19.0 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
catalyst | DMAP | 1.35 mmol, 0.17 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | N,N′-(octane-1,8-diyl)bis(furan-2-carboxamide) | C(CCCCCCCNC(=O)C=1OC=CC1)NC(=O)C=1OC=CC1 | C18H24N2O4
